US07994196B2
bis(2-Chloroethyl)amine hydrochloride (Tokyo Chemical Industry CO., LTD., 3.0 g) was dissolved in acetone (50 ml), potassium carbonate (3.0 g) and ethyl chloroformate (2.4 ml) were added, and the mixture was heated under reflux for 4 hr. After completion of the reaction, the mixture was cooled to room temperature, and the solid was filtered off. The filtrate was evaporated under reduced pressure to give ethyl bis(2-chloroethyl)carbamate (3.7 g, yield 100%).

reactant | bis(2-Chloroethyl)amine hydrochloride | 3.0 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 2.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | ethyl bis(2-chloroethyl)carbamate | 3.7 g, yield 100% | ClCCN(C(OCC)=O)CCCl | C7H13Cl2NO2
